vdr_parallel_network - fault test
I1 0 T DC 0.012
R1 T 0 5939.216698
R2 T 0 12217.082549
R3 T 0 518.680368
.op
.control
run
print v(T)
print @r1[i] @r2[i] @r3[i]
print @i1[i]
.endc
.end
